Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
transfer for L pontine stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year old right handed woman with history of HTN,
HLD, DM, CKD (b/l Cr 1.2), prior R MCA stroke with resultant L
hemiparesis, ___ resident, who presented to ___
with slurred speech, nausea, and vomiting, and is now 
transferred
upon discovery of acute left pontine stroke.

On history with the patient, she endorses a few days of 
gradually
worsening difficulty speaking, leading to other people being
unable to understand her. She also developed severe nausea, 
which
has now improved. She provides no other specific history but to
me denies double vision, blurred vision, dysphagia, difficulty
comprehending or finding words (merely speaking them), new
weakness, numbness or tingling.

On review of transfer documents, per the HPI:
"The patient states that her symptoms started last night with
generalized and progressive weakness associated with nausea but
no vomiting. She endorses mildly decreased PO intake. Otherwise,
there is no other complaint. She denies fevers, chills, dyspnea,
headache, hemoptysis, cough, or abdominal pain. In the ED, VS
were 97.9, 60, 10, 130/70, 98% RA. Exam showed blunted affect
with slow speech, clear lungs, normal cardiac and abdominal 
exam,
and left hemiparesis. Labs showed sodium of 154, Cr 2.66,
hemoglobin 8.8, troponin 0.07."

In ED, she underwent head CT which showed chronic large right 
MCA
infarct, otherwise no acute findings. She was admitted for 
workup
of her symptoms and underwent MRI/MRA head, which showed a left
pontine infarct, MRA showing no flow in b/l ACAs, and 50%
stenosis of distal L PCA and atherosclerotic irregularity of the
basilar artery. MRA neck showed 50% stenosis of left carotid, 
but
limited exam of right carotid artery. She was evaluated with a
TTE without bubble study which showed LVH with preserved 
systolic
function. She was treated with permissive hypertension and
underwent Swallow evaluation which cleared her for moist pureed
diet with honey thickened liquids.

In terms of her other medical problems, per discharge summary:
- Hypernatremia to 154- felt secondary to poor PO intake and
treated with D5W infusions. Na was 146 upon transfer.
- ___ with Cr at 2.66- last Cr was 1.18 in ___, but no recent
for comparison. Suspected secondary to dehydration or
post-obstructive uropathy given her retention, and was straight
cathed prn. Her lisinopril and furosemide were held. Cr was 2.74
at transfer.
- Troponin elevation to 0.07- without EKG changes, this was
attributed to acute stroke and were trended, peaking at 0.081 
and
down to 0.058 prior to transfer.

*******
Later history taken from niece and power of attorney ___:
She spoke to pt earlier this week (___) and her speech had
been completely normal and at baseline. Then the next day, her
speech was slow and slurred over the phone. She requested the
facility bring her for evaluation but they apparently delayed
this until ___. ___ also expresses concerns that the
staff neglect her and are reluctant to continue providing
therapeutic services.

 
Past Medical History:
R MCA stroke ___ with left hemiplegia
Hypertension
Diabetes
CKD
Depression

 
Social History:
___
Family History:
Mother and father with hypertension, aunt with breast cancer.
 
Physical Exam:
ADMISSION Physical Exam:
Vitals: BP 173/91 HR 70 RR 10 spO2 100% RA
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: alert, oriented to hospital in ___, and 
to
the current president. Limited able to relate history. Can name
___ until ___, then stops. Language is fluent with intact
repetition and comprehension. Speech is moderately dysarthric 
and
slow. There were no paraphasic errors. Pt was able to name both
high and low frequency objects. Able to follow both midline and
appendicular commands, though with motor and cognitive
impersistence.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI, b/l
extinguishing endgaze nystagmus. Left hemianopsia.
V: Facial sensation intact to light touch.
VII: Mild left facial weakness.
VIII: Hearing intact grossly.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline, unable to test strength..

-Motor: Spastic tone on LUE, with flexion contracture of
shoulder, elbow and wrist. Less degree of spasticity in the LLE.
Normal tone and bulk on R. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
L  0    0   0   0   0  0  0  0   0    0  0     0     
R  4    5-  ___  ___-  5-   3  4     5    

-Sensory: endorses sensation to light touch and pinprick
bilaterally, however testing is unreliable as pt states she can
feel pinprick even when I hover the neurotip over her.
Inconsistent testing for extinction (at times extinguishes on 
the
L, others on R).

-DTRs:
  ___ Tri ___ Pat Ach
L  3+ 3+   3+   3+  4
R  3  3    3    3   4
Plantar response was extensor on L and flexor on R.

-Coordination: mild dysmetria on FNF on R.

================================================
DISCHARGE PHYSICAL EXAMINATION: 
Vitals: Tm/c: 98.2/98.2 BP: ___ HR: 59-66 RR: ___ 
SaO2: 97-100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic:

-Mental Status: Alert, oriented to self, hospital in ___ 
States date is the day prior, but is otherwise correct. Abulic, 
slowed processing speed.  Unable to name ___. Follows simple 
appendicular commands. 

-Cranial Nerves:  L field cut, L facial droop, mod dysarthria. 

-Motor:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
L  0    0   0   0   0  0  0  0   0    0  0     0     
R  4    4+  ___  ___   4+   3  4     5  

-Sensory: intact to LT R hemibody. 

 
Pertinent Results:
___ 12:15AM BLOOD WBC-5.0 RBC-2.86* Hgb-9.1* Hct-29.0* 
MCV-101* MCH-31.8 MCHC-31.4* RDW-13.3 RDWSD-49.1* Plt ___
___ 05:05AM BLOOD WBC-4.6 RBC-2.50* Hgb-8.0* Hct-25.0* 
MCV-100* MCH-32.0 MCHC-32.0 RDW-13.6 RDWSD-49.3* Plt ___
___ 12:15AM BLOOD ___ PTT-36.1 ___
___ 05:05AM BLOOD ___ PTT-51.9* ___
___ 12:15AM BLOOD Glucose-129* UreaN-51* Creat-2.5* Na-147* 
K-3.6 Cl-109* HCO3-26 AnGap-16
___ 05:05AM BLOOD Glucose-102* UreaN-25* Creat-1.3* Na-145 
K-3.3 Cl-110* HCO3-23 AnGap-15
___ 12:15AM BLOOD ALT-24 AST-14 AlkPhos-98 TotBili-0.6
___ 12:15AM BLOOD CK-MB-2 cTropnT-0.05* proBNP-115
___ 12:15AM BLOOD %HbA1c-5.1 eAG-100
___ 12:15AM BLOOD Triglyc-77 HDL-48 CHOL/HD-2.5 LDLcalc-57
___ 02:38PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ 02:38PM URINE RBC-2 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-<1

Imaging: 
MRI/MRA brain ___:
FINDINGS
Within the left paramedian pons, as seen on image 58 and 59, 
series 2, there is an area of restricted diffusion that is also 
FLAIR hyperintense.  The abnormality measures up to 10 mm in 
diameter.  The finding is consistent with a late acute to early 
subacute infarct.
      
There is re- demonstration of the large, chronic right middle 
cerebral artery territory infarct with associated porencephalic 
dilatation of the right lateral ventricle and considerable right 
cerebral sulcal dilatation.  There is also moderate extent of 
high T2 signal in the periventricular white matter of the left 
cerebral hemisphere, nonspecific in etiology, but probably 
chronic small vessel infarction.
       
There is  1-2 mm rightward subfalcine herniation, corresponding 
to the extensive malacic change seen within the right cerebral 
hemisphere, noted above.
      
The principal vascular flow patterns are identified, aside from 
the anterior cerebral arteries- please see MRA below.  There is 
mild bilateral ethmoid sinus mucosal thickening, compatible with 
an ongoing inflammatory process.

MR angiography of the circle of ___ and its tributaries 
discloses no visible arterial flow within either anterior 
cerebral artery. There is also a reduced flow within the right 
middle cerebral artery, presumably a consequence of the large 
chronic infarct and moderate (50%) stenosis of the the distal M1 
segment of the right middle cerebral artery.  Please see image 
9, series 100.  There is also mild to moderate, presumed 
atherosclerotic irregularity of the basilar artery.  There is a 
moderate (50%) stenosis of the distal P1 distal P2 segments of 
the left posterior cerebral artery.  Please see images ___ and ___, 
series 101.  There is no sign for the presence of an aneurysm or 
other vascular malformation within the limitations of this study 
technique.

MRA neck ___
FINDINGS
Unfortunately, there is considerable motion artifact degrading 
the 2D time-of-flight sequence, particularly at the aortic arch 
and origins of the great vessels, as well as the vertebral 
arteries.   The better quality 3D study  has very limited 
geographic coverage.  Within this significant interpretive 
limitation, there appears to be a mild (___) stenosis of the 
origin of the left internal carotid artery.  Please see image 
14, series 103.  The right common carotid bifurcation likely 
lies outside the field of coverage of the 3D study.  No gross 
stenosis is seen in this location on the motion-degraded 2D 
study.  Both vertebral arteries are tortuous and their origins 
are poorly shown on the motion-degraded 2D time-of-flight study.

TTE ___
Severe symmetric left ventricular hypertrophy with preserved 
systolic function. Doppler evidence of elevated left sided 
filling pressures. Normal valvular function.

Carotid Doppler ___: ___ mild plaque with ___ stenosis 
(likely low end of this range). LICA normal. 

 
Brief Hospital Course:
Ms. ___ was admitted with L pontine perforator artery 
territory infarct. Given distribution and uncontrolled 
hypertension, this was attributed to small vessel disease. She 
was continued on clopidogrel. 
She had a prerenal ___ of 2.7 from baseline 1.2 on transfer from 
___, which resolved with IVF. Cr 1.3 on day of discharge. 

Her hypertension was difficult to control, and on her home 
regimen it was noted that she was always >200 systolic prior to 
med administration and would drop systolic by over 100 points 
one hour after medications. Several of her medications were 
given more frequently in lower doses with goal of obtaining 
steady antihypertensive effect. 
She was evaluated by SLP and cleared for a dysphagia diet as 
described below.

24 hr interval events prior to discharge: 
No overnight events. Ms. ___ is feeling well this am. 
 
===========================
Transitional Issues: 
[ ] advance diet as tolerated
[ ] continue ___
[ ] continue antihypertensive titration with an eye to giving 
more frequent, smaller doses to achieve more steady BP. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. HydrALAZINE 100 mg PO BID 
2. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Labetalol 400 mg PO BID 
5. Furosemide 80 mg PO DAILY 
6. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
7. Allopurinol ___ mg PO DAILY 
8. Atorvastatin 80 mg PO QPM 
9. CloNIDine 0.3 mg PO BID 
10. Clopidogrel 75 mg PO DAILY 
11. Docusate Sodium 100 mg PO BID 
12. LevETIRAcetam 750 mg PO BID 
13. Fleet Enema ___AILY:PRN constipation 
14. nystatin 100,000 unit/gram topical BID 
15. Ondansetron 4 mg PO Q8H:PRN nausea 
16. Potassium Chloride 40 mEq PO DAILY 

 
Discharge Medications:
1.  FLUoxetine 10 mg PO DAILY  
2.  Megestrol Acetate 400 mg PO BID  
3.  CloNIDine 0.2 mg PO Q8H  
4.  HydrALAZINE 50 mg PO Q6H  
5.  Labetalol 300 mg PO Q6H  
6.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
7.  Allopurinol ___ mg PO DAILY  
8.  Atorvastatin 80 mg PO QPM  
9.  Clopidogrel 75 mg PO DAILY  
10.  Docusate Sodium 100 mg PO BID  
11.  Fleet Enema ___AILY:PRN constipation  
12.  Furosemide 80 mg PO DAILY  
13.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY  
14.  LevETIRAcetam 750 mg PO BID  
15.  Lisinopril 40 mg PO DAILY  
16.  nystatin 100,000 unit/gram topical BID  
17.  Ondansetron 4 mg PO Q8H:PRN nausea  
18.  Potassium Chloride 40 mEq PO DAILY 
Hold for K >  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke
Medically refractory hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized due to symptoms of slurred speech and 
right-sided weakness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
high blood pressure
high cholesterol

We are changing your medications as follows:
We adjusted your blood pressure medications. 
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___